US07595315B2
2-{2-[2-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-1-phenyl-ethyl}-morpholine
Add Pd/C (10%) (470 mg) to a solution of 4-Benzyl-2-{2-[2-(tert-butyl-dimethyl-silanyloxy)-phenyl]-1-phenyl-ethylidene}-morpholine (470 mg, 0.97 mmol) in 10 ml of MeOH, bubble H2 and stir at room temperature for 4 h. Concentrate the solvent under reduced pressure to give a residue. Purify the residue by column chromatography eluting with CH2Cl2:MeOH 9:1 to afford pure the title compound as colourless oil.

reactant | 4-Benzyl-2-{2-[2-(tert-butyl-dimethyl-silanyloxy)-phenyl]-1-phenyl-ethylidene}-morpholine | 0.97 mmol, 470 mg | C(C1=CC=CC=C1)N1CC(OCC1)=C(CC1=C(C=CC=C1)O[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C31H39NO2Si
solvent | MeOH | 10 ml | CO | CH4O
catalyst | Pd/C | 470 mg | [Pd] | Pd
product | 2-{2-[2-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-1-phenyl-ethyl}-morpholine | C(C)(C)(C)[Si](OC1=C(C=CC=C1)CC(C1=CC=CC=C1)C1CNCCO1)(C)C | C24H35NO2Si
